* Diode model library for KiCad/ngspice
* 1N5817, 1N5818, 1N5819 and PDZ12B are historical imported models.
* Their exact upstream source is not recorded and must be established before
* public redistribution. Each model is used by a matching symbol.
.MODEL 1N5817 D( IS=870u RS=81.3m BV=20.0 IBV=1.00m CJO=203p  M=0.333 N=1.81 TT=4.32u )
.MODEL 1N5818 D( IS=263u RS=73.1m BV=30.0 IBV=1.00m CJO=203p  M=0.333 N=1.90 TT=4.32u )
.MODEL 1N5819 D( IS=390n RS=0.115 BV=40.0 IBV=1.00m CJO=203p  M=0.333 N=1.70 TT=4.32u )
.MODEL PDZ12B D( IS = 1.429E-014 N = 1.101 BV = 11.99 IBV = 0.005 RS = 0.3705 CJO = 4.928E-11 VJ = 0.575 M = 0.3292 )

* Generic indicator LED models for KiCad/ngspice
* Pin order for every subcircuit: A K
* Nominal calibration temperature: 25 C
*
* These are generic electrical models, not manufacturer-specific models.
* Light output, luminous intensity and wavelength are not modeled.

* Red indicator LED: Vf = 2.0 V at If = 20 mA
.subckt LED_RED A K
DLED A K LED_RED_D
.model LED_RED_D D (
+ IS=5.62097e-18 N=2 RS=8
+ BV=5 IBV=10u CJO=30p VJ=0.75 M=0.33 TT=50n
+ EG=1.8 XTI=3 TNOM=25
+ )
.ends LED_RED

* Traditional green indicator LED: Vf = 2.2 V at If = 20 mA
.subckt LED_GREEN A K
DLED A K LED_GREEN_D
.model LED_GREEN_D D (
+ IS=2.49765e-19 N=2 RS=10
+ BV=5 IBV=10u CJO=25p VJ=0.75 M=0.33 TT=50n
+ EG=2.2 XTI=3 TNOM=25
+ )
.ends LED_GREEN

* Blue indicator LED: Vf = 3.1 V at If = 20 mA
.subckt LED_BLUE A K
DLED A K LED_BLUE_D
.model LED_BLUE_D D (
+ IS=9.19237e-22 N=2.5 RS=12
+ BV=5 IBV=10u CJO=20p VJ=0.75 M=0.33 TT=50n
+ EG=2.8 XTI=3 TNOM=25
+ )
.ends LED_BLUE

* White indicator LED: Vf = 3.2 V at If = 20 mA
.subckt LED_WHITE A K
DLED A K LED_WHITE_D
.model LED_WHITE_D D (
+ IS=1.93770e-22 N=2.5 RS=12
+ BV=5 IBV=10u CJO=20p VJ=0.75 M=0.33 TT=50n
+ EG=2.8 XTI=3 TNOM=25
+ )
.ends LED_WHITE

* Vishay BZX55C calibrated-model library for KiCad/ngspice
* Pin order for every subcircuit: A K
* Generated only from the official Vishay model files listed below.
* The model topology and curve shape are retained from Vishay.
* Each BEB offset is shifted so terminal Vz equals the data-sheet nominal
* voltage at Izt and 25 C. All other electrical parameters are unchanged.

* Official source: https://www.vishay.com/docs/85282/bzx55c2v7.txt
* ngspice conversion: PSpice POLY(1) source replaced by equivalent B source;
* subcircuit renamed to the full Vishay part number; BEB offset calibrated at Izt.
********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
* Technology:	DISCRETE DEVICE
* Device:	Zener Diode BZX 55C 2V7
* Type:	Typical (nom)
* Remarks:	Macro model
* Revision:
* Simulator:	PSPICE

.SUBCKT BZX55C2V7 a c

 DF a c BZX55C2V7_DFOR
 DR c a BZX55C2V7_DREV
 DB b a BZX55C2V7_DBRE
 BEB c b V=0.95447845+V(d)
 IB 0 d 1m
 RB 0 d 1k TC=-0.1m

.MODEL BZX55C2V7_DFOR D
 + IS =   12p  RS =    0  N  =  1.5  CJO= 300p
 + VJ = 500m  M  = 345m  FC = 700m  XTI=    3
 + EG =    1

.MODEL BZX55C2V7_DREV D
 + IS = 150f  N  =   10  XTI=    3  EG =1.186

.MODEL BZX55C2V7_DBRE D
 + IS =  12f  RS =   10  N  =    1  XTI=    0
 + EG =1.186

.ENDS BZX55C2V7

* Official source: https://www.vishay.com/docs/85284/bzx55c3v6.txt
* ngspice conversion: PSpice POLY(1) source replaced by equivalent B source;
* subcircuit renamed to the full Vishay part number; BEB offset calibrated at Izt.
********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
* BZX55C3V6
* Technology:        DISCRETE DEVICE
* Device:            Zener Diode BZX 55C 3V6
* Type:              Typical (nom)
* Model established: 12.11.1996, by S.Reuter, TM1iC63-HN
* Wafer:
* Remarks:           Macro model
* Revision:
* Simulator:         PSPICE

.SUBCKT BZX55C3V6 a c

 DF a c BZX55C3V6_DFOR
 DR c a BZX55C3V6_DREV
 DB b a BZX55C3V6_DBRE
 BEB c b V=1.84979584+V(d)
 IB 0 d 1m
 RB 0 d 1k TC=-0.1m

.MODEL BZX55C3V6_DFOR D
 + IS =   9p  RS =    0  N  =  1.5  CJO= 252p
 + VJ = 500m  M  = 345m  FC = 700m  XTI=    3
 + EG =    1

.MODEL BZX55C3V6_DREV D
 + IS = 100f  N  =   10  XTI=    3  EG =1.186

.MODEL BZX55C3V6_DBRE D
 + IS =  10f  RS =   10  N  =    1  XTI=    0
 + EG =1.186

.ENDS BZX55C3V6

* Official source: https://www.vishay.com/docs/85285/bzx55c5v1.txt
* ngspice conversion: PSpice POLY(1) source replaced by equivalent B source;
* subcircuit renamed to the full Vishay part number; BEB offset calibrated at Izt.
********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
* BZX55C5V1
* Technology:        DISCRETE DEVICE
* Device:            Zener Diode BZX 55C 5V1
* Type:              Typical (nom)
* Model established: 12.11.1996, by S.Reuter, TM1iC63-HN
* Wafer:
* Remarks:           Macro model
* Revision:
* Simulator:         PSPICE

.SUBCKT BZX55C5V1 a c

 DF a c BZX55C5V1_DFOR
 DR c a BZX55C5V1_DREV
 DB b a BZX55C5V1_DBRE
 BEB c b V=3.37599406+V(d)
 IB 0 d 1m
 RB 0 d 1k TC=3m

.MODEL BZX55C5V1_DFOR D
 + IS =   1p  RS =  3.5  N  =  1.4  CJO= 178p
 + VJ = 610m  M  = 335m  FC = 700m  XTI=    3
 + EG =1.186

.MODEL BZX55C5V1_DREV D
 + IS = 100f  N  =   30  XTI=    3  EG =1.186

.MODEL BZX55C5V1_DBRE D
 + IS =  10f  RS =    6  N  =    1  XTI=    0
 + EG =1.186

.ENDS BZX55C5V1

* Official source: https://www.vishay.com/docs/85287/bzx55c6v2.txt
* ngspice conversion: PSpice POLY(1) source replaced by equivalent B source;
* subcircuit renamed to the full Vishay part number; BEB offset calibrated at Izt.
********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
* BZX55C6V2
* Technology:        DISCRETE DEVICE
* Device:            Zener Diode BZX 55C 6V2
* Type:              Typical (nom)
* Model established: 12.11.1996, by S.Reuter, TM1iC63-HN
* Wafer:
* Remarks:           Macro model
* Revision:
* Simulator:         PSPICE

.SUBCKT BZX55C6V2 a c

 DF a c BZX55C6V2_DFOR
 DR c a BZX55C6V2_DREV
 DB b a BZX55C6V2_DBRE
 BEB c b V=4.50826626+V(d)
 IB 0 d 1m
 RB 0 d 1k TC=4m

.MODEL BZX55C6V2_DFOR D
 + IS =  32p  RS =    0  N  =  1.6  CJO= 128p
 + VJ = 685m  M  = 342m  FC = 700m  XTI=    3
 + EG =1.186

.MODEL BZX55C6V2_DREV D
 + IS = 100f  N  =   12  XTI=    3  EG =1.186

.MODEL BZX55C6V2_DBRE D
 + IS =  10f  N  =    1  XTI=    0  EG =1.186

.ENDS BZX55C6V2

* Official source: https://www.vishay.com/docs/85281/bzx55c18.txt
* ngspice conversion: PSpice POLY(1) source replaced by equivalent B source;
* subcircuit renamed to the full Vishay part number; BEB offset calibrated at Izt.
********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
* BZX55C18
* Technology:        DISCRETE DEVICE
* Device:            Zener Diode BZX 55C 18
* Type:              Typical (nom)
* Model established: 12.11.1996, by S.Reuter, TM1iC63-HN
* Wafer:
* Remarks:           Macro model
* Revision:
* Simulator:         PSPICE

.SUBCKT BZX55C18 a c

 DF a c BZX55C18_DFOR
 DR c a BZX55C18_DREV
 DB b a BZX55C18_DBRE
 BEB c b V=16.24021130+V(d)
 IB 0 d 1m
 RB 0 d 1k TC=19m

.MODEL BZX55C18_DFOR D
 + IS =  60p  RS = 500m  N  =  1.6  CJO=43.6p
 + VJ = 700m  M  = 420m  FC = 700m  XTI=    3
 + EG =1.186

.MODEL BZX55C18_DREV D
 + IS = 100f  N  =   34  XTI=    3  EG =1.186

.MODEL BZX55C18_DBRE D
 + IS =  10f  RS =   20  N  =    1  XTI=    0
 + EG =1.186

.ENDS BZX55C18

* Official source: https://www.vishay.com/docs/85283/bzx55c30.txt
* ngspice conversion: PSpice POLY(1) source replaced by equivalent B source;
* subcircuit renamed to the full Vishay part number; BEB offset calibrated at Izt.
********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
* BZX55C30
* Technology:        DISCRETE DEVICE
* Device:            Zener Diode BZX 55C 30
* Type:              Typical (nom)
* Model established: 12.11.1996, by S.Reuter, TM1iC63-HN
* Wafer:
* Remarks:           Macro model
* Revision:
* Simulator:         PSPICE

.SUBCKT BZX55C30 a c

 DF a c BZX55C30_DFOR
 DR c a BZX55C30_DREV
 DB b a BZX55C30_DBRE
 BEB c b V=28.24847730+V(d)
 IB 0 d 1m
 RB 0 d 1k TC=27m

.MODEL BZX55C30_DFOR D
 + IS =   1p  RS = 500m  N  =  1.4  CJO=  23p
 + VJ = 520m  M  = 330m  FC = 700m  XTI=    3
 + EG =1.186

.MODEL BZX55C30_DREV D
 + IS = 100f  N  =   55  XTI=    3  EG =1.186

.MODEL BZX55C30_DBRE D
 + IS =  10f  RS =   22  N  =    1  XTI=    0
 + EG =1.186

.ENDS BZX55C30

* Official source: https://www.vishay.com/docs/85286/bzx55c68.txt
* ngspice conversion: PSpice POLY(1) source replaced by equivalent B source;
* subcircuit renamed to the full Vishay part number; BEB offset calibrated at Izt.
********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
* BZX55C68
* Technology:        DISCRETE DEVICE
* Device:            Zener Diode BZX 55C 68
* Type:              Typical (nom)
* Model established: 12.11.1996, by S.Reuter, TM1iC63-HN
* Wafer:
* Remarks:           Macro model
* Revision:
* Simulator:         PSPICE

.SUBCKT BZX55C68 a c

 DF a c BZX55C68_DFOR
 DR c a BZX55C68_DREV
 DB b a BZX55C68_DBRE
 BEB c b V=66.07781230+V(d)
 IB 0 d 1m
 RB 0 d 1k TC=80m

.MODEL BZX55C68_DFOR D
 + IS =  40p  RS = 500m  N  =  1.6  CJO=6.83p
 + VJ = 615m  M  = 340m  FC = 700m  XTI=    3
 + EG =1.186

.MODEL BZX55C68_DREV D
 + IS = 100f  N  =  200  XTI=    3  EG =1.186

.MODEL BZX55C68_DBRE D
 + IS =  10f  RS =  160  N  =    1  XTI=    0
 + EG =1.186

.ENDS BZX55C68

* Generic 1N400x rectifier models for KiCad/ngspice
* Pin order for every subcircuit: A K
* Forward characteristic is common to the family; BV follows the rated VRRM.
* Typical model for circuit simulation; avalanche operation is not characterized.

* 1N4001: 1 A rectifier, 50 V repetitive peak reverse voltage
.subckt 1N4001 A K
DRECT A K D_1N4001
.model D_1N4001 D (
+ IS=7.02767n RS=34.1512m N=1.80803
+ BV=50 IBV=5u CJO=20p VJ=0.7 M=0.5
+ TT=2.23u EG=1.05743 XTI=5 FC=0.5 TNOM=25
+ )
.ends 1N4001

* 1N4002: 1 A rectifier, 100 V repetitive peak reverse voltage
.subckt 1N4002 A K
DRECT A K D_1N4002
.model D_1N4002 D (
+ IS=7.02767n RS=34.1512m N=1.80803
+ BV=100 IBV=5u CJO=20p VJ=0.7 M=0.5
+ TT=2.23u EG=1.05743 XTI=5 FC=0.5 TNOM=25
+ )
.ends 1N4002

* 1N4003: 1 A rectifier, 200 V repetitive peak reverse voltage
.subckt 1N4003 A K
DRECT A K D_1N4003
.model D_1N4003 D (
+ IS=7.02767n RS=34.1512m N=1.80803
+ BV=200 IBV=5u CJO=20p VJ=0.7 M=0.5
+ TT=2.23u EG=1.05743 XTI=5 FC=0.5 TNOM=25
+ )
.ends 1N4003

* 1N4004: 1 A rectifier, 400 V repetitive peak reverse voltage
.subckt 1N4004 A K
DRECT A K D_1N4004
.model D_1N4004 D (
+ IS=7.02767n RS=34.1512m N=1.80803
+ BV=400 IBV=5u CJO=20p VJ=0.7 M=0.5
+ TT=2.23u EG=1.05743 XTI=5 FC=0.5 TNOM=25
+ )
.ends 1N4004

* 1N4005: 1 A rectifier, 600 V repetitive peak reverse voltage
.subckt 1N4005 A K
DRECT A K D_1N4005
.model D_1N4005 D (
+ IS=7.02767n RS=34.1512m N=1.80803
+ BV=600 IBV=5u CJO=20p VJ=0.7 M=0.5
+ TT=2.23u EG=1.05743 XTI=5 FC=0.5 TNOM=25
+ )
.ends 1N4005

* 1N4006: 1 A rectifier, 800 V repetitive peak reverse voltage
.subckt 1N4006 A K
DRECT A K D_1N4006
.model D_1N4006 D (
+ IS=7.02767n RS=34.1512m N=1.80803
+ BV=800 IBV=5u CJO=20p VJ=0.7 M=0.5
+ TT=2.23u EG=1.05743 XTI=5 FC=0.5 TNOM=25
+ )
.ends 1N4006

* 1N4007: 1 A rectifier, 1000 V repetitive peak reverse voltage
.subckt 1N4007 A K
DRECT A K D_1N4007
.model D_1N4007 D (
+ IS=7.02767n RS=34.1512m N=1.80803
+ BV=1000 IBV=5u CJO=20p VJ=0.7 M=0.5
+ TT=2.23u EG=1.05743 XTI=5 FC=0.5 TNOM=25
+ )
.ends 1N4007
